US07888351B2
A) 1-Oxo-1,2,3,4-tetrahydro-isoquinoline-7-sulfonyl chloride
To Chlorosulfonic acid (30 mL) is added 3,4-Dihydro-2H-isoquinolin-1-one (5 g, 34 mmol) at 0° C. After stirring at rt during 1 h, the mixture is heated at 50° C. during 16 h, then it is poured carefully into an ice bath and stirred at 0° C. during 30 min. The precipitate is filtered and dried in oven at 60° C. to give the title compound.

reactant | 3,4-Dihydro-2H-isoquinolin-1-one | 34 mmol, 5 g | C1(NCCC2=CC=CC=C12)=O | C9H9NO
reactant | Chlorosulfonic acid | 30 mL | ClS(=O)(=O)O | ClHO3S
product | 1-Oxo-1,2,3,4-tetrahydro-isoquinoline-7-sulfonyl chloride | O=C1NCCC2=CC=C(C=C12)S(=O)(=O)Cl | C9H8ClNO3S
